US08735584B2
1-Chloro-8-(3-morpholin-4-yl-propoxy)-5H-benzo[c][1,8]naphthyridin-6-one (226)
The title compound was synthesized according to the procedure described for the preparation of Example 1 using 4-chloro-3-iodopyridin-2-amine (350 mg, 1.38 mmol) and 5-(3-morpholin-4-yl-propoxy)-2-(4,4,5,5-tetramethyl[1,3,2]-dioxaborolan-2-yl)-benzoic acid methyl ester (697 mg, 1.72 mmol) to provide 226 (120 mg, 23% yield) as a white solid. LC-MS (M+H=374, obsd.=374).

reactant | 4-chloro-3-iodopyridin-2-amine | 1.38 mmol, 350 mg | ClC1=C(C(=NC=C1)N)I | C5H4ClIN2
reactant | 5-(3-morpholin-4-yl-propoxy)-2-(4,4,5,5-tetramethyl[1,3,2]-dioxaborolan-2-yl)-benzoic acid methyl ester | 1.72 mmol, 697 mg | COC(C1=C(C=CC(=C1)OCCCN1CCOCC1)B1OC(C(O1)(C)C)(C)C)=O | C21H32BNO6
product | 1-Chloro-8-(3-morpholin-4-yl-propoxy)-5H-benzo[c][1,8]naphthyridin-6-one | 120 mg, 23% yield | ClC1=C2C3=C(C(NC2=NC=C1)=O)C=C(C=C3)OCCCN3CCOCC3 | C19H20ClN3O3
